US04839355
A mixture of 19.35 g ethyl (S)-10-bromo-8,9-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate, 16.20 g 2,6-dimethyl-4-(trimethylstannyl)pyridine, 0.88 g dichlorobis(triphenylphosphine)palladium in 200 ml ethanol was placed in a stainless steel Parr apparatus and the system flushed with nitrogen and pressurized to about 80 psi with nitrogen. The system was heated at 150° C. for 4 hours. The reaction mixture was cooled and concentrated in vacuo, and the residue was taken up in chloroform, filtered and chromatographed on silica gel using 5% methanol in chloroform to give 14.90 g ethyl (S)-10-(2,6-dimethyl-4-pyridinyl)-8,9-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate.

reactant | ethyl (S)-10-bromo-8,9-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 19.35 g | BrC=1C(=C(C2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F)F | C15H12BrF2NO4
reactant | 2,6-dimethyl-4-(trimethylstannyl)pyridine | 16.20 g | CC1=NC(=CC(=C1)[Sn](C)(C)C)C
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | dichlorobis(triphenylphosphine)palladium | 0.88 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl (S)-10-(2,6-dimethyl-4-pyridinyl)-8,9-difluoro-3-methyl-7-oxo-2,3-dihydro-7H-pyrido[1,2,3-de][1,4]benzoxazine-6-carboxylate | 14.90 g | CC1=NC(=CC(=C1)C=1C(=C(C2=C3N([C@H](COC31)C)C=C(C2=O)C(=O)OCC)F)F)C | C22H20F2N2O4
